US07910613B2
90: Furan-3-carboxylic acid [5-(2-methyl-2H-tetrazol-5-yl)-4-(4H-1lambda*4*-thiophen-2-yl)-thiazol-2-yl]-amide
Prepared from 5-(2-methyl-2H-tetrazol-5-yl)-4-thiophen-2-yl-thiazol-2-ylamine and furan-3-carbonyl chloride.

reactant | 5-(2-methyl-2H-tetrazol-5-yl)-4-thiophen-2-yl-thiazol-2-ylamine | CN1N=C(N=N1)C1=C(N=C(S1)N)C=1SC=CC1 | C9H8N6S2
reactant | furan-3-carbonyl chloride | O1C=C(C=C1)C(=O)Cl | C5H3ClO2
product | Furan-3-carboxylic acid [5-(2-methyl-2H-tetrazol-5-yl)-4-(4H-1lambda*4*-thiophen-2-yl)-thiazol-2-yl]-amide | CN1N=C(N=N1)C1=C(N=C(S1)NC(=O)C1=COC=C1)C=1S=CCC1 | C14H12N6O2S2
